US05344843
A mixture of 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid sodium salt (3.0 g), dichloromethane (500 mL), and 1N hydrochloric acid (25 mL) was stirred for one hour until all solids dissolved. The layers were separated, the water layer was extracted 2×100 mL of dichloromethane and the organic layers were washed in turn with water. The combined organic layers were dried (Na2SO4), filtered and evaporated to give 2.8 g of crude product. Crystallization from dichloromethane-hexane provided 2.6 g of 4[[2- (2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid, mp 170°-171° C.

reactant | 4-[[2-(2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid sodium salt | 3.0 g | [Na+].C1=C(C=CC2=CC=CC=C12)OCCOC1=CC=C(C=C1)C(C(=O)[O-])=O
reactant | hydrochloric acid | 1N, 25 mL | Cl | ClH
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 4[[2- (2-naphthalenyloxy)ethyl]oxy]-alpha-oxobenzeneacetic acid | 2.6 g | C1=C(C=CC2=CC=CC=C12)OCCOC1=CC=C(C=C1)C(C(=O)O)=O | C20H16O5
